Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Reglan / Lactose
 
Attending: ___
 
Chief Complaint:
Presents for the below scheduled procedure. 
 
Major Surgical or Invasive Procedure:
Exam under anesthesia, laparoscopic bilateral 
salpingo-oophorectomies, lysis of adhesions (enterolysis and
adnexal lysis and bladder lysis), laparoscopic trachelectomy

 
History of Present Illness:
Ms. ___ is a lovely ___ G4, ___ premenopausal 
___ Hispanic female with IBS, hypercholesterolemia, 
mixed urinary incontinence, with persistent pelvic pain after 
her prior laparoscopic supracervical hysterectomy (___) that 
was performed for menorrhagia and pelvic pain.  Unfortunately, 
the operative report is not available for review. Pathology did 
confirm the presence of adenomyosis. Endometriosis was not seen. 
 Both ovaries were felt to be normal. The patient presented for 
another gynecologic opinion regarding her pelvic pain issues.

The patient reported ongoing chronic pelvic pain "that feels 
like an open cut" and occurs on a daily basis.  Her right-sided 
pain is more severe than the left.  She also complained of 
dyspareunia and pain with full bladder.  She was evaluated by 
Dr. ___ her mixed urinary incontinence who advised that she 
undergo pelvic physical therapy.  In addition, she complains of 
lower back pain (also right greater than left) as well as 
occasional right lower extremity pain.  She states that her pain 
initially began in ___, which prompted her
surgery.  Although she experienced some pain relief, she 
continued to have ongoing postoperative pelvic pain.  The lower 
back pain and dyspareunia began more recently in ___ whereas 
her chronic pelvic pain has been ongoing for years now.  She has 
not been evaluated in the pain clinic.  She does report
getting prescriptions for medical treatment of her pain 
including OxyContin, Percocet, and baclofen.  She states that 
these medications are poorly tolerated due to side effects.  She 
has also trialed NSAIDs periodically, which provides but 
incomplete pain relief.  She has never taken OCPs or Lupron for 
medical
management of her pelvic pain.

Recently, she underwent a pelvic ultrasound (___), for 
evaluation of her post-hysterectomy, pelvic pain.  PUS 
(___) revealed a cervical stump measuring 3 x 3.5 x 
5.1cm.  The right ovary contained a 3.3 cm complex cyst, most 
consistent with a hemorrhagic cyst.  Left ovary contained a 2.5 
cm follicular cyst.  The patient was evaluated by Dr. ___ 
___ felt that this ovarian cyst was not related to the patient's 
pelvic pain and did not advise surgery for ovarian cyst 
treatment.  A repeat pelvic ultrasound was performed 
(___) that revealed a normal left ovary with follicular 
activity and a
right ovary with almost completely resolved complex cyst.  There 
are no findings to explain the patient's pain.  The patient 
presents today for another gynecologic opinion regarding her 
pelvic pain.  She has no other specific gynecologic complaints.

A trial of Lupron therapy was made for 2 months. The last inj 
was ___. In follow-up her CPP improved within 2 wks of ___ 
Lupron injection.  She continues to have improved pelvic pain 
while on Lupron, but states her pain begins to increase when 
next the Lupron dose is due.  She has been sexually active since 
Lurpon was initiated-- she believes vaginal intercourse is also 
less
painful with the Lupron.  Although she does experience menoapuse 
symptoms of hot flashes on the Lupron, she feels these side 
effects are far better than the CPP she has been living with.  
In addition, UI is still present, but she feels the urinary 
symptoms are less severe while on Lupron.

After extensive counseling again and careful consideration, pt 
has decided she would like to proceed with surgical exploration 
and potential treatment with BSO.  She understands ___ BSO will 
put her into permanent menopause.   We also discussed the 
possibility of tracelectomy at time of BSO pending the intra-op 
findings.  After today's review, we were less inclined to 
proceed with trachelectomy since her symptoms improved with 
hormonal suppession and today's exam was notably improved 
compared to prior examination.  The nature of a ___ BSO, 
possible LOA, possbile trachelectomy, poss x-lap were d/w pt.  
Potential surgery-related complicatinos, likely hosp and post-op 
course were d/w pt in detail today.  She understands that even 
with LSC BSO, she may continue to suffer from CPP, especially if 
no gyn etiology is identified.  Regardless given her repsonse to 
Lupron, she would like to proceed with the outlined surgical 
plan. Lupron injection was not given at pre-op visit so 
endometriosis would not be suppressed at time of surgery.   
Informed consent was obtained.

 
Past Medical History:
OB History:  G4, P3-0-1-3.
1.  ___, vaginal delivery, no complications.
2.  ___, ectopic pregnancy, see below the LSH.
3.  ___, vaginal delivery, no complications.
4.  ___, vag del + postpartum tubal ligation, no 
complications

GYN History:  Menarche at age ___.  LMP ___ at time of LSH. 
The patient continues to complain of post-hysterectomy
dyspareunia, pelvic pain, pain with full bladder or bowel
movement.  Last Pap smear ___, negative SIL.  Last mammogram
___ BI-RADS 1 - negative.  No evidence of malignancy.  The
patient is married, monogamous with her husband and sexually
active; however, not recently due to dyspareunia.  She reports
four sexual partners throughout life.  She does not require
contraception as status post LSH.  Denies history of any STDs.

Medical Problems:
1.  IBS.
2.  Hypercholesterolemia.
3.  Mixed urinary incontinence.
4.  History of ectopic pregnancy, status post surgery.
5.  H/o menorrhagia & pelvic pain --> s/p laparoscopic
supracervical hysterectomy, dx'd w/ adenomyosis, no 
endometriosis
appreciated, normal ovaries bilaterally per Dr. ___
of the operative report (NA for my review).  Pt now w/ chronic
pelvic pain post-hysterectomy, undergoing eval.

Surgical History:
1.  ___, laparotomy for partial salpingectomy for ectopic
pregnancy.  The patient is uncertain which side (? left).
2.  ___, laparotomy, appendectomy.
3.  ___, postpartum tubal ligation at time of vaginal delivery.
4.  ___, laparoscopic supracervical hysterectomy at ___ (see above).  

 
Social History:
___
Family History:
Reports father with GI cancer.  Paternal uncle
and paternal grandfather with GI cancers as well.  Family 
history
of diabetes (paternal grandmother and paternal uncle),
hypertension (paternal grandfather), heart disease (paternal
grandfather), hypercholesterolemia (mother, brother, sister),
prostate cancer (maternal grandfather.

 
Physical Exam:
well appearing female in NAD
BP 114/78  Wt 153.___'1"
PHYSICAL EXAM:
VS:  BP   Wt  lb  Ht  5'5"
General: well appearing female in NAD, alert and oriented
HEENT: normocephalic/atraumatic, anicteric sclera
Neck: supple, full range of motion, no thyromegaly or nodules
Lymphatic: no palpable neck lymphadenopathy
Back: no CVA tenderness
Lungs: clear to auscultation bilaterally, good inspiratory 
effort
CV: regular rate and rhythm, no murmurs/rubs/gallops
Abd: +bowel sounds, soft, non-tender, non-distended, no R/G
Extremities: no clubbing/cyanosis/edema
Pelvic: Skin- grossly normal external female genitalia, no
lesions or rashes.  BME- surg absent uterus, + cervical stump 
TTP
(improved from initial visit), no adnexal or tenderness palpated
on exam, no posterior cul de sac tenderness or nodularities

 
Pertinent Results:
___ 08:55AM BLOOD WBC-8.1# RBC-3.46* Hgb-11.5* Hct-34.1* 
MCV-99* MCH-33.2* MCHC-33.7 RDW-12.3 Plt ___
 
Brief Hospital Course:
Ms ___ underwent an exam under anesthesia, laparoscopic 
bilateral salpingo-oophorectomies, lysis of adhesions 
(enterolysis and adnexal lysis and bladder lysis), laparoscopic 
trachelectomy; see operative report for details. The patient was 
kept overnight for observation given ___ extensive dissection.  
She was kept NPO overnight.  She advanced her diet POD#1 without 
difficulty, no nausea or vomiting.  She voiding spontaneously 
without difficulty. POD#1 patient had a stable CBC with normal 
WBC and HCT 34.  She continued to be asymptomatic with a benign 
exam. She had an uncomplicated recovery and was discharged home 
on postoperative day #1 in good condition: ambulating and 
urinating without difficulty, tolerating a regular diet, and 
with adequate pain control using PO medication.
 
Medications on Admission:
None.
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO every four (4) hours as needed for pain: Do not take more 
than 4000mg acetaminophen(APAP)in 24 hrs.
Disp:*40 Tablet(s)* Refills:*0*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic pain, status post prior
laparoscopic supracervical hysterectomy, simple left ovarian 
cyst, pending pathology; pelvic abdominal adhesions (bladder and 
bowel adhesions).

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Narcotic medications can cause constipation. Please take a 
stool softener, such a colace, stay hydrated, and consume fiber.
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 2 
months.
* You may eat a regular diet.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision.  No bath tubs for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___